* source HRM
V_V1         N00050 0 DC 0.2Vdc AC 0.035Vac 
X_U1         N00050 N00136 VDC+ VDC- N00136 uA741
V_V2         VDC+ 0 5Vdc
C_C1         N00136 HPF_OUT  3.48uF  TC=0,0 
R_R1         0 HPF_OUT  57.3k TC=0,0 
X_U2         HPF_OUT N00795 VDC+ VDC- N00795 uA741
V_V3         0 VDC- 5Vdc
R_R2         N00795 N02176  8.1k TC=0,0 
R_R3         N02176 N02169  8.14 TC=0,0 
C_C2         0 N02169  1u  TC=0,0 
X_U3         N02169 N02332 VDC+ VDC- N02359 uA741
R_R4         0 N02332  0.981k TC=0,0 
R_R5         N02359 N02332  98k TC=0,0 
