* source HRM
V_V1         N00050 0 DC 0.2Vdc AC 0.035Vac 
X_U1         N00050 N00136 VDC+ VDC- N00136 uA741
V_V2         VDC+ 0 5Vdc
C_C1         N00136 N00339  3.48uF  TC=0,0 
R_R1         0 N00339  57.3k TC=0,0 
V_V3         0 VDC- 5Vdc
X_U3         N03589 N03645 VDC+ VDC- N03611 uA741
R_R3         N03583 N03589  8.14k TC=0,0 
C_C2         0 N03589  1u  TC=0,0 
R_R5         N03611 N03645  98k TC=0,0 
R_R4         0 N03645  0.981k TC=0,0 
R_R2         N03571 N03583  8.1k TC=0,0 
X_U2         N00339 N03571 VDC+ VDC- N03571 uA741
